US04259506
A solution of 3-acetamido-6-tert.-butyl-thiochromone (31 g) in a 2 N solution (350 ml) of hydrochloric acid in methanol is heated gradually to the reflux temperature and kept at this temperature (70° C.) for 2 hours. After cooling, the reaction medium is poured into an excess of a 10% strength aqueous solution of potassium bicarbonate. A yellow solid precipitates which is filtered off, washed with water and dried. 3-Amino-6-tert.-butyl-thiochromone (26.2 g), which melts at 168° C., is thus obtained.

reactant | 3-acetamido-6-tert.-butyl-thiochromone | 31 g | C(C)(=O)NC1=COC2=CC=C(C=C2C1=S)C(C)(C)C | C15H17NO2S
reactant | hydrochloric acid | Cl | ClH
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | methanol | CO | CH4O
product | 3-Amino-6-tert.-butyl-thiochromone | 26.2 g | NC1=COC2=CC=C(C=C2C1=S)C(C)(C)C | C13H15NOS
